US09382188B2
B) N-(diphenylmethylene)-2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-amine
To a solution of 2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl trifluoromethanesulfonate (1.77 g) in THF (28 mL) were added benzophenoneimine (1.06 mL), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (244 mg), cesium carbonate (2.74 g) and tris(dibenzylideneacetone)dipalladium(0) (193 mg) at room temperature, and the mixture was stirred at 80° C. for 20 hr. The reaction mixture was poured into water at room temperature, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (1.90 g) as a crude yellow oil. This compound was used for the next step without further purification.

reactant | 2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl trifluoromethanesulfonate | 1.77 g | FC(S(=O)(=O)OC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C)(F)F | C19H20F4O4S
reactant | benzophenoneimine | 1.06 mL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 244 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | cesium carbonate | 2.74 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | 28 mL | C1CCOC1 | C4H8O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 193 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
product | N-(diphenylmethylene)-2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-amine | 1.90 g | C1(=CC=CC=C1)C(=NC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C)C1=CC=CC=C1 | C31H30FNO
